US07705034B2
Using general procedure B, 3-methyl-benzo[b]thiophene was reacted with benzaldehyde to give (3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol as a pale yellow solid. MS: 236.8 ([M+H—H2O]+).

reactant | 3-methyl-benzo[b]thiophene | CC=1C2=C(SC1)C=CC=C2 | C9H8S
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (3-methyl-benzo[b]thiophen-2-yl)-phenyl-methanol | CC=1C2=C(SC1C(O)C1=CC=CC=C1)C=CC=C2 | C16H14OS
